*
* Ac-DC converter
*

* forces current values to be saved
.options savecurrents

******************************************



*input voltage source
Vi 1 0 0 sin(0 13.13068 50)
Da1 1 2 Default
Da2 0 2 Default
Da3 4 0 Default
Da4 4 1 Default

*envelope detector
Ca1 2 4 10u

*voltage regulator
Rb1 2 3 10k

Dbp1 3 31 Default
Dbp2 31 32 Default
Dbp3 32 33 Default
Dbp4 33 34 Default
Dbp5 34 35 Default
Dbp6 35 36 Default
Dbp7 36 37 Default
Dbp8 37 38 Default
Dbp9 38 39 Default
Dbp10 39 310 Default
Dbp11 310 311 Default
Dbp12 311 312 Default
Dbp13 312 313 Default
Dbp14 313 314 Default
Dbp15 314 315 Default
Dbp16 315 316 Default
Dbp17 316 317 Default
Dbp18 317 318 Default
Dbp19 318 319 Default
Dbp20 319 320 Default
Dbp21 320 321 Default
Dbp22 321 322 Default
Dbp23 322 323 Default
Dbp24 323 324 Default
Dbp25 324 4 Default


Dbn1 4 41 Default
Dbn2 41 42 Default
Dbn3 42 43 Default
Dbn4 43 44 Default
Dbn5 44 45 Default
Dbn6 45 46 Default
Dbn7 46 47 Default
Dbn8 47 48 Default
Dbn9 48 49 Default
Dbn10 49 410 Default
Dbn11 410 411 Default
Dbn12 411 412 Default
Dbn13 412 413 Default
Dbn14 413 414 Default
Dbn15 414 415 Default
Dbn16 415 416 Default
Dbn17 416 417 Default
Dbn18 417 418 Default
Dbn19 418 419 Default
Dbn20 419 420 Default
Dbn21 420 421 Default
Dbn22 421 422 Default
Dbn23 422 423 Default
Dbn24 423 424 Default
Dbn25 424 3 Default


*.include s.txt




.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


******************************************
* analise no tempo
tran 2e-4 1.2 1.0

print maximum(v(3)-v(4))
print mean(V(3)-v(4))
print abs(mean(V(3)-v(4)-12))
print abs({maximum(v(3)-v(4)) - minimum (v(3)-v(4))})
print 1./((abs(mean(V(3)-V(4)-12)) + abs(maximum(v(3)-v(4)) - minimum (v(3)-v(4))) + 0.000001)*(0.1*54 + 20))
*plot  v(3)-v(4) 11 12 13


******************************************
hardcopy t3out.ps v(3)-v(4)
hardcopy t3outcomp.ps v(3)-v(4)-12 
hardcopy t3env.ps v(2)-v(4)



.endc