*
* Ac-DC converter
*

* forces current values to be saved
.options savecurrents

******************************************


*13.13068
*input voltage source
Vi 1 0 0 sin(0 13.25625 50)
Da1 1 2 Default
Da2 0 2 Default
Da3 4 0 Default
Da4 4 1 Default

*envelope detector
Ca1 2 4 10u

*voltage regulator
Rb1 2 3 10k

Dbp1 3 31 Default
Dbp2 31 32 Default
Dbp3 32 33 Default
Dbp4 33 34 Default
Dbp5 34 35 Default
Dbp6 35 36 Default
Dbp7 36 37 Default
Dbp8 37 38 Default
Dbp9 38 39 Default
Dbp10 39 310 Default
Dbp11 310 311 Default
Dbp12 311 312 Default
Dbp13 312 313 Default
Dbp14 313 314 Default
Dbp15 314 315 Default
Dbp16 315 316 Default
Dbp17 316 317 Default
Dbp18 317 318 Default
Dbp19 318 319 Default
Dbp20 319 320 Default
Dbp21 320 321 Default
Dbp22 321 322 Default
Dbp23 322 4 Default


*.include s.txt




.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


******************************************
* analise no tempo
tran 2e-4 3.2 3.0

let average  =  mean(V(3)-v(4))
let deviation = abs(mean(V(3)-v(4)-12))
let ripple = abs({maximum(v(3)-v(4)) - minimum (v(3)-v(4))})
let merit = 1./((abs(mean(V(3)-V(4)-12)) + abs(maximum(v(3)-v(4)) - minimum (v(3)-v(4))) + 0.000001)*(0.1*27 + 20))

echo "sim_TAB"
print average
print deviation
print ripple
print merit
echo "sim_END"

*print maximum(v(3)-v(4))
*print mean(V(3)-v(4))
*print abs(mean(V(3)-v(4)-12))
*print abs({maximum(v(3)-v(4)) - minimum (v(3)-v(4))})
*print 1./((abs(mean(V(3)-V(4)-12)) + abs(maximum(v(3)-v(4)) - minimum (v(3)-v(4))) + 0.000001)*(0.1*27 + 20))
*plot  v(3)-v(4) 11 12 13
*plot v(3)-v(4)
*plot (311)-v(312)
*print mean(V(311)-v(312))*25


******************************************
hardcopy t3out.ps v(3)-v(4)
echo "t3out_FIG"
hardcopy t3outcomp.ps v(3)-v(4)-12
echo "t3outcomp_FIG"
hardcopy t3env.ps v(2)-v(4)
echo "t3env_FIG"



.endc
